2165-04-27 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2165-4-26**] 03:48 PM
   pt. came down from 7f
 DIALYSIS CATHETER - START [**2165-4-26**] 03:52 PM
 SPUTUM CULTURE - At [**2165-4-26**] 05:16 PM
   - meropenem desensitization not started due to not enough lumens on
   PICC, and need to continued other medications
   - PICC line not drawing blood, but able to infuse
   - AM labs pending, will be done with HD
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-4-26**] 08:00 PM
   Acyclovir - [**2165-4-26**] 09:00 PM
   Aztreonam - [**2165-4-26**] 10:00 PM
   Ciprofloxacin - [**2165-4-26**] 10:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2165-4-26**] 08:00 PM
   Hydralazine - [**2165-4-26**] 11:15 PM
   Metoprolol - [**2165-4-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: -12.7
C (9.2
   HR: 94 (84 - 119) bpm
   BP: 116/59(70) {116/59(70) - 191/114(115)} mmHg
   RR: 33 (11 - 45) insp/min
   SpO2: 99%
             Total In:
                                                                  2,640 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,640 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ////
   Physical Examination
   GEN: NAD, sleepy, non-verbal but nodes to questions, has trach
   HEENT: dry MM
   CHEST: CTA B
   CV: tachy, no M
   ABD: soft, minimal tenderness?, +BS
   EXT: warm, moves all ext
   SKIN: no rashes visible
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   61yo male now Day +49 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for meropenem desensitization for ESBL E. coli
   bacteremia.
   .
   # Fevers: Hx of recent fevers and increased sputum production. Sputum
   growing ESBL, only sensitive to meropenem. Has hx of piror ESBL
   bacterermia. Current blood cx and recent removed line so far negative
   or pending. BMT would like to avoid nausea assoiciated with tigecycline
   since pt has tolearted meropeneum desensitization before. Did not start
   last night due to concern about timing of other medications via PICC
   line. CT scan shows lung infiltrates.
   - for now continue vanco and micafungin
   - will discontinue aztreonam once meropenem at full dose
   - will start meropenem desensitization protocol per pharmacy with ICU
   monitoring
   - daily blood cultures
   - appreciate ID input
   - rechecking sputum for infection
   - changing acylovir to Q24hours
   - dosing with HD for vanco, will follow levels
   .
   #. Altered Mental Status: Etiology of his altered mental status is
   likely multifactorial related to his prolonged hospital course,
   medications, and infection. Believed to be delerium. LP and MRI with
   out evidence of infection. .
   - prior evaluations by psych and neuro
   - haldol standing and PRN
   - EKG monitoring if haldol dose is changed
   - avoid further psychotropic medications
   - restraints and mittens as needed to prevent lines being removed
   .
   # Tracheostomy: had prolonged intubatin and required trach, now on mask
   with stable oxygen requirements.
   - plan to decreased trach size from 8mm cannula to 6mm next week with
   IP to work to removing trach
   - will monitor oxygen requriments closely due to concern of infection
   .
   # Afib with RVR: Had HR before up to 160s. Is on IV metoprolol due to
   frequent removal of NGT for PO medicaions.
   - monitor on tele
   - continue metoprolol 20mg IV Q4H
   - dig 0.125 every other day with levels Q48H
   .
   # Renal Failure: on HD, Had ARF during admission, thought to be caused
   by contrast and/or medications including gentamycin
   - HD on Tues/Thurs/Sat
   - renally dose meds for HD as needed
   - renal recs
   .
   #. Myeloma: Patient is now day + 49 for SCT for multiple myeloma.
   - appreciate BMT recs
   - continue acyclovir and bactrim prophylaxis
   - holding ursodiol due to not on PO meds
   - Plan to start to [**Doctor Last Name 3564**] mycophenolate mofetil on Sunday per BMT
   - daily cyclosporine levels, but may be abnormal since drawing labs
   with HD
   .
   #. Hyponatremia: Occurred during prior ICU stay from SIADH, now
   resolved
   - monitor lytes
   - free water restrict as needed
   .
   #. Type 2 Diabetes Mellitus: Patient with difficult to control blood
   glucose, underlying diabetes mellitus, and steroids.
   - [**Last Name (un) 303**] recs, they are following pt
   - continue insulin sliding scale
   .
   #. Hypertension: Patient has a history of hypertension in the past
   requiring Metoprolol Succinate 50mg PO bid and amlodipine 2.5mg PO
   daily. Currently on metoprolol IV for afib.
   - continued scheduled IV metoprolol 20mg Q4H
   - PRN hydralyzine
   .
   #. Depression: Patient has a history of major depression with
   significant medication requirements. Being followed by psych. Holding
   cymbalta due to AMS
   .
   #. Glaucoma: Stable
   - continue timolol eye drops
   .
   #. Hyperlipidemia: Stable
   - discuss restarting atorvastatin
   .
   #. Peripheral Neuropathy and Pain: Stable
   - continue oxycodone prn
   .
   #. GERD: Stable
   - continue PPI
   .
   # FEN: TPN, since removed NGT
   # PPx: pneumoboots, bowel regimen, PPI
   # CODE: FULL CODE
   # COMM: [**Name (NI) **]; Wife [**Name (NI) 1118**] [**Name (NI) **] [**Telephone/Fax (1) 8155**], [**Telephone/Fax (1) 8156**]
   # DISP: pending desensitization, then likely transfer back to BMT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-4-26**] 03:48 PM
   Dialysis Catheter - [**2165-4-26**] 03:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Desensitization in ICU today.

2165-04-28 07:52:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - had HD in afternoon, with labs at that time
   - started meropenem desenitization in evening
   - stopped cipro
   - blood cx with HD
   - Dig was 1.3
   - vanco was 20
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-26**] 10:00 PM
   Acyclovir - [**2165-4-27**] 09:08 AM
   Meropenem - [**2165-4-28**] 12:28 AM
   Bactrim (SMX/TMP) - [**2165-4-28**] 01:16 AM
   Micafungin - [**2165-4-28**] 02:16 AM
   Aztreonam - [**2165-4-28**] 02:59 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2165-4-27**] 08:07 AM
   Metoprolol - [**2165-4-28**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-28**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 94 (92 - 116) bpm
   BP: 146/70(88) {139/65(87) - 169/107(115)} mmHg
   RR: 24 (17 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,112 mL
                                                                  1,491 mL
   PO:
             TF:
   IVF:
                                                                  1,795 mL
                                                                    903 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -888 mL
                                                                  1,492 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GEN: NAD, sleepy, non-verbal but nodes to questions, has trach
   HEENT: dry MM
   CHEST: CTA B
   CV: tachy, no M
   ABD: soft, minimal tenderness?, +BS
   EXT: warm, moves all ext
   SKIN: no rashes visible
   Labs / Radiology
   88 K/uL
   7.9 g/dL
   165 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.5 mEq/L
   26 mg/dL
   104 mEq/L
   140 mEq/L
   22.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2165-4-27**]  03:16 PM
                             [**2165-4-28**]  03:55 AM
   WBC
   4.9
   4.9
   Hct
   23.9
   22.5
   Plt
   93
   88
   Cr
   4.5
   2.4
   Glucose
   115
   165
   Other labs: PT / PTT / INR:13.3/27.8/1.1, ALT / AST:[**8-5**], Alk Phos / T
   Bili:117/0.4, LDH:329 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61yo male now Day +51 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for meropenem desensitization for ESBL E. coli
   bacteremia.
   .
   # Fevers: Febrile with increased sputum production. Sputum growing
   ESBL, only sensitive to meropenem. Has hx of piror ESBL bacterermia.
   Patient tolerated meropenum desensitization overnight. Current blood cx
   and recent removed line so far negative.
   - for now continue vanco, micafungin
   - discontinued aztreonam
   - started meropenum, monitor for 24 hours following desenitization
   - CIS or blood cultures in am
   - f/cu sputm and blood cultures
   - appreciate ID input
   - dosing with HD for vanco, will follow levels
   .
   #. Altered Mental Status: Etiology of his altered mental status is
   likely multifactorial related to his prolonged hospital course,
   medications, and infection. Believed to be delerium. LP and MRI with
   out evidence of infection. .
   - haldol standing and PRN
   - EKG monitoring if haldol dose is changed
   - avoid further psychotropic medications
   - restraints and mittens as needed to prevent lines being removed
   .
   # Tracheostomy: had prolonged intubatin and required trach, now on mask
   with stable oxygen requirements.
   - plan to decreased trach size from 8mm cannula to 6mm next week with
   IP to work to removing trach
   - will monitor oxygen requriments closely due to concern of infection
   .
   # Afib with RVR: Had HR before up to 160s. Is on IV metoprolol due to
   frequent removal of NGT for PO medicaions.
   - monitor on tele
   - continue metoprolol 20mg IV Q4H
   - dig 0.125 every other day with levels Q48H
   .
   # Renal Failure: on HD, Had ARF during admission, thought to be caused
   by contrast and/or medications including gentamycin
   - HD on Tues/Thurs/Sat
   - renally dose meds for HD as needed
   - renal recs
   .
   #. Myeloma: Patient is now day + 49 for SCT for multiple myeloma.
   - appreciate BMT recs
   - continue acyclovir and bactrim prophylaxis
   - holding ursodiol due to not on PO meds
   - taper mycophenolate mofetil today per BMT
   - daily cyclosporine levels, but may be abnormal since drawing labs
   with HD
   .
   #. Hyponatremia: Occurred during prior ICU stay from SIADH, now
   resolved
   - monitor lytes
   - free water restrict as needed
   .
   #. Type 2 Diabetes Mellitus: Patient with difficult to control blood
   glucose, underlying diabetes mellitus, and steroids.
   - [**Last Name (un) 303**] recs, they are following pt
   - continue insulin sliding scale
   .
   #. Hypertension: Patient has a history of hypertension in the past
   requiring Metoprolol Succinate 50mg PO bid and amlodipine 2.5mg PO
   daily. Currently on metoprolol IV for afib.
   - continued scheduled IV metoprolol 20mg Q4H
   - PRN hydralyzine
   .
   #. Depression: Patient has a history of major depression with
   significant medication requirements. Being followed by psych. Holding
   cymbalta due to AMS
   .
   #. Glaucoma: Stable
   - continue timolol eye drops
   .
   #. Hyperlipidemia: Stable
   - discuss restarting atorvastatin
   .
   #. Peripheral Neuropathy and Pain: Stable
   - continue oxycodone prn
   .
   #. GERD: Stable
   - continue PPi
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-4-27**] 07:47 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2165-4-26**] 03:48 PM
   Dialysis Catheter - [**2165-4-26**] 03:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   Code status: Full code
   Communication: Wife [**Name (NI) 1118**] [**Name (NI) **] [**Telephone/Fax (1) 8155**], [**Telephone/Fax (1) 8156**]
   Disposition: Transfer to BMT following 24 hour desensitization
   monitoring
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  61 year old male with multiple myleoma, day
   51 s/p allo sct, with [**Hospital 8169**] hospital course, transferred to
   ICU for meropenem de-sensitization for treatment of infection (ESBL e
   coli pna).
   HD yesterday.  [**Last Name (un) **] desensitization overnight.  Aztreonam/cipro
   stopped.
   .
   AF 100.4,   90-110  146/70   20   sat 95% on  35%TM    -900ml (with
   HD)/ 1.4+ since mn
   awake, alert, NAD, intermittently follows commands
   CTA
   RR
   Obese, soft +BS, NT
   Decreased edema, dry/peeling skin hands, feet stable (pre-[**Last Name (un) 614**])
   Labs notable for wbc 4.9  hct 22.5 (23.9), vanco 20, dig 1.3, lfts nl,
   ldh 329
   No new micro data
   Active issues include
     * Esbl e coli pna for Meropenum Desensitization
     * Fevers
     * Delirium
     * HTN
     * a-fib
     * Multiple Myeloma
     * ARF
 on HD
   Fevers felt most likely [**12-17**] esbl e coli inf/pna.  Agree with plan
   to continue meropenem now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 614**] desensitization. Will monitor in ICU
   for 24 hrs post. Monitor fever curve and f/u cx data.  Continuing
   empiric vanco, monitoring vanco levels. ID is following. Control
   htn/rate with IVmetoprolol/dig.  Prn hydral.  Continue TPN for
   nutrition as pt has repeatedly pulled out NGTs. Hope is that he will
   ultimately tolerate PO if able to decannulate his trach.  Continue HD
   per schedule.  F/u additional BMT recs, continuing, immunosuppression
   reg (recs regarding cell cept taper, check cyclo levels) and
   prophylactic meds.   Haldol prn for delirium, continue to orient, and
   optimize sleep wake schedule, is s/p extensive evaluation. ICU:
   SSI/fixed, picc, HD tunnel line, boots. OOB to chair/PT consult
   Remainder of plan as outlined in resident note.
   Can likely transfer to BMT in am after post-desensitization monitoring
   in icu.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2165-4-28**] 01:01 PM ------

2165-04-29 07:16:00 Physician Resident Progress Note
24 Hour Events:
   - BMT: don't taper cellcept due to diarrhea (GVHD), transfuse 1 pRBC
   - ID: check C. Diff (need stool sample), decrease meropenum to 500 mg
   qd
   - Renal: HD next Tues
   - Spiked -> pan-cultured
   - Call out tomorrow once 24 hours post sensitization
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-26**] 10:00 PM
   Vancomycin - [**2165-4-27**] 07:00 PM
   Bactrim (SMX/TMP) - [**2165-4-28**] 01:16 AM
   Aztreonam - [**2165-4-28**] 02:59 AM
   Acyclovir - [**2165-4-28**] 11:00 AM
   Meropenem - [**2165-4-28**] 07:50 PM
   Micafungin - [**2165-4-29**] 02:18 AM
   Infusions:
   Cyclosporine - 25 mg/hour
   Other ICU medications:
   Metoprolol - [**2165-4-28**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 91 (74 - 104) bpm
   BP: 155/87(104) {134/27(64) - 170/102(113)} mmHg
   RR: 28 (23 - 43) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,823 mL
                                                                    783 mL
   PO:
           TF:
   IVF:
                                                                  1,821 mL
                                                                    160 mL
   Blood products:
                                                                    193 mL
                                                                     82 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,823 mL
                                                                    783 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: NAD, sleepy, non-verbal but nodes to questions, has trach
   HEENT: dry MM
   CHEST: CTA B
   CV: tachy, no M
   ABD: soft, minimal tenderness?, +BS
   EXT: warm, moves all ext
   SKIN: no rashes visible
   Labs / Radiology
   91 K/uL
   9.2 g/dL
   125 mg/dL
   3.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   46 mg/dL
   103 mEq/L
   138 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-4-27**]  03:16 PM
                             [**2165-4-28**]  03:55 AM
                             [**2165-4-29**]  03:39 AM
   WBC
   4.9
   4.9
   6.8
   Hct
   23.9
   22.5
   26.8
   Plt
   93
   88
   91
   Cr
   4.5
   2.4
   3.3
   Glucose
   115
   165
   125
   Other labs: PT / PTT / INR:13.3/27.8/1.1, ALT / AST:[**8-5**], Alk Phos / T
   Bili:117/0.4, LDH:329 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
   61yo male now Day +51 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for meropenem desensitization for ESBL E. coli
   bacteremia.
   .
   # Fevers: Febrile with increased sputum production. Sputum growing
   ESBL, only sensitive to meropenem. Has hx of piror ESBL bacterermia.
   Patient tolerated meropenum desensitization overnight. Current blood cx
   and recent removed line so far negative.
   - for now continue vanco, micafungin
   - discontinued aztreonam
   - started meropenum, monitor for 24 hours following desenitization
   - CIS or blood cultures in am
   - f/cu sputm and blood cultures
   - appreciate ID input
   - dosing with HD for vanco, will follow levels
   .
   #. Altered Mental Status: Etiology of his altered mental status is
   likely multifactorial related to his prolonged hospital course,
   medications, and infection. Believed to be delerium. LP and MRI with
   out evidence of infection. .
   - haldol standing and PRN
   - EKG monitoring if haldol dose is changed
   - avoid further psychotropic medications
   - restraints and mittens as needed to prevent lines being removed
   .
   # Tracheostomy: had prolonged intubatin and required trach, now on mask
   with stable oxygen requirements.
   - plan to decreased trach size from 8mm cannula to 6mm next week with
   IP to work to removing trach
   - will monitor oxygen requriments closely due to concern of infection
   .
   # Afib with RVR: Had HR before up to 160s. Is on IV metoprolol due to
   frequent removal of NGT for PO medicaions.
   - monitor on tele
   - continue metoprolol 20mg IV Q4H
   - dig 0.125 every other day with levels Q48H
   .
   # Renal Failure: on HD, Had ARF during admission, thought to be caused
   by contrast and/or medications including gentamycin
   - HD on Tues/Thurs/Sat
   - renally dose meds for HD as needed
   - renal recs
   .
   #. Myeloma: Patient is now day + 49 for SCT for multiple myeloma.
   - appreciate BMT recs
   - continue acyclovir and bactrim prophylaxis
   - holding ursodiol due to not on PO meds
   - taper mycophenolate mofetil today per BMT
   - daily cyclosporine levels, but may be abnormal since drawing labs
   with HD
   .
   #. Hyponatremia: Occurred during prior ICU stay from SIADH, now
   resolved
   - monitor lytes
   - free water restrict as needed
   .
   #. Type 2 Diabetes Mellitus: Patient with difficult to control blood
   glucose, underlying diabetes mellitus, and steroids.
   - [**Last Name (un) 303**] recs, they are following pt
   - continue insulin sliding scale
   .
   #. Hypertension: Patient has a history of hypertension in the past
   requiring Metoprolol Succinate 50mg PO bid and amlodipine 2.5mg PO
   daily. Currently on metoprolol IV for afib.
   - continued scheduled IV metoprolol 20mg Q4H
   - PRN hydralyzine
   .
   #. Depression: Patient has a history of major depression with
   significant medication requirements. Being followed by psych. Holding
   cymbalta due to AMS
   .
   #. Glaucoma: Stable
   - continue timolol eye drops
   .
   #. Hyperlipidemia: Stable
   - discuss restarting atorvastatin
   .
   #. Peripheral Neuropathy and Pain: Stable
   - continue oxycodone prn
   .
   #. GERD: Stable
   - continue PPI
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-4-28**] 07:23 PM 75 mL/hour
   Lines:
   PICC Line - [**2165-4-26**] 03:48 PM
   Dialysis Catheter - [**2165-4-26**] 03:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   Code status: Full code
   Communication: Wife [**Name (NI) 1118**] [**Name (NI) **] [**Telephone/Fax (1) 8155**], [**Telephone/Fax (1) 8156**]
   Disposition: Transfer to BMT following 24 hour desensitization
   monitoring